US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(1-methylethyl)-benzoyl]amino]benzamide monohydrochloride
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 2.50 g (0.0109 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide, prepared as in Example 6A, and 4.0 g (0.0217 mol) of p-isopropylbenzoyl chloride with the exception that, after removing ethyl acetate the resulting solid was purified using column chromatography (8000 ml of a gradient eluent of 0-15% methanol in a 1% ammonia in dichloromethane solution). The fractions containing the desired product were combined and reduced to dryness under reduced pressure to provide 2.1 g of a solid. This solid was then dissolved in methanol containing diethyl ether and hydrochloric acid and the resulting solution was again reduced to dryness under reduced pressure. The final product was recrystallized from an ethanol/diethyl ether solution to provide 2.37 g of the desired titled compound (m.p. 188°-192° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)-ethyl]benzamide | 0.0109 mol, 2.50 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | p-isopropylbenzoyl chloride | 0.0217 mol, 4.0 g | C(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-(1-methylethyl)-benzoyl]amino]benzamide monohydrochloride | Cl.N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)C)=O)=O | InChI=1S/C22H24N4O2.ClH/c1-15(2)16-7-9-17(10-8-16)21(27)26-19-6-4-3-5-18(19)22(28)25-12-11-20-23-13-14-24-20;/h3-10,13-15H,11-12H2,1-2H3,(H,23,24)(H,25,28)(H,26,27);1H
